Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
none

attach
 
Pertinent Results:
DATA: I have reviewed the relevant labs, radiology studies,
tracings, medical records, and they are notable for: 

___ 01:30PM BLOOD WBC: 6.2 RBC: 5.53 Hgb: 14.6 Hct: 44.3
MCV: 80* MCH: 26.4 MCHC: 33.0 RDW: 13.2 RDWSD: 37.___ 
___ 01:30PM BLOOD Neuts: 59.2 Lymphs: ___ Monos: 6.3 Eos:
0.5* Baso: 0.5 Im ___: 0.2 AbsNeut: 3.69 AbsLymp: 2.07 AbsMono:
0.39 AbsEos: 0.03* AbsBaso: 0.03 
___ 01:30PM BLOOD Glucose: 519* UreaN: 11 Creat: 1.0 Na:
132* K: 4.9 Cl: 90* HCO3: 24 AnGap: 18 
___ 01:30PM BLOOD Albumin: 4.5 Calcium: 9.9 Phos: 3.2 Mg:
1.6 
___ 01:33PM BLOOD Lactate: 2.6* 
___ 06:54PM BLOOD Lactate: 1.6 

CT A/P ___
No acute intra-abdominal pathology to account for patient's
symptoms.  Normal  appendix. 

Abdominal ultrasound ___
Normal abdominal ultrasound.

Urine Cx ___ 2:33 
   URINE CULTURE (Pending): NGTD

Discharge labs:

___ 01:30PM BLOOD WBC-6.2 RBC-5.53 Hgb-14.6 Hct-44.3 
MCV-80* MCH-26.4 MCHC-33.0 RDW-13.2 RDWSD-37.4 Plt ___
___ 04:45AM BLOOD Glucose-310* UreaN-6 Creat-0.7 Na-135 
K-4.4 Cl-97 HCO3-24 AnGap-14
___ 01:30PM BLOOD ALT-16 AST-12 AlkPhos-129 TotBili-0.3

EKG: NSR at 95 bpm, normal intervals, non ischemic

Discharge exam:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose unremarkable. Oropharynx without visible 
lesion, MMM
CV: heart regular, no m/r/g
RESP: Lungs clear to auscultation with good air movement 
bilaterally
GU: No CVA tenderness
GI: soft, ND. +BS. no ttp 
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect
 
Brief Hospital Course:
SUMMARY/ASSESSMENT: ___ with h/o uncontrolled DM, prior gluteal 
abscess, who is s/p hemorrhoidectomy on ___ presenting with 
abdominal pain, found to have hyperglycemia and rectal 
tenderness.

ACUTE/ACTIVE PROBLEMS:

# Rectal tenderness:
# Abdominal pain: 
Patient presenting with cramping abdominal pain, exacerbated by 
eating, however, most correlated with constipation, straining 
with bowel movements, and passing narrow
caliber stool since his surgery. CT A/P WNL without e/o 
obstruction, abscess or infection. CT was significant for stool 
burden. LFTS and lipase WNL. Abdominal exam benign. While he is 
at risk for gastroparesis given his poorly controlled diabetes, 
he does not have significant nausea, vomiting, or early satiety. 
Given the nature
of his abdominal pain, it seems most consistent with significant 
constipation. However, his rectal exam is consistent with for 
possible fissure vs abscess vs thrombosed hemorrhoid given his 
significant tenderness. While he does report some occasional 
BRBPR, his H/H is stable, so likely small volume blood loss. On 
admission, patient was volume resuscitated with IVFs and started 
on a bowel regimen. ___ surgery team was consulted given 
recent surgery, and they felt exam was reassuring. Pt was 
discharged with instructions to take miralax ___ times a day as 
well as docusate/senna and prn lactulose for severe 
constipation. 

# Hyperglycemia, poorly controlled DM: 
Patient reports no significant triggers for hyperglycemia and 
reports compliance
with his home diabetes regimen. No evidence of acidosis on exam. 
UA with significant ketones and the patient appears hypovolemic. 
 On admission, started on home 30 units lantus QHS with 6 mg TID 
with meals. Home glipizide held.

# Sinus tachycardia: 
Physical exam evidence with hypovolemia on admission. Also, 
patient has a significant amount of pain. Of note, outpatient 
records indicate high resting heart rate in the 100s-110s. No 
chest pain or dyspnea to suggest pulmonary embolus.
No other evidence of sepsis or shock. Patient is asymptomatic. 
Pt was fluid resuscitated and HR improved to normal rate. EKG 
was repeated and showed normal sinus rhythm at 95 bpm. TSH wnl. 

# Psuedohyponatremia: 
Admission Na of 132, corrected for hyperglycemia to 142. 
Improved with fluids correction of and hyperglycemia 

Transitional Issues:
=======================
[ ] Please continue to monitor symptoms. If persistent abdominal 
pain and constipation on bowel regime, consider referral to GI 

>30 minutes of time spent on patient care and discharge care 
coordination
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Glargine 30 Units Bedtime
Humalog 6 Units Breakfast
Humalog 6 Units Lunch
Humalog 6 Units Dinner
2. GlipiZIDE 10 mg PO TID 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  Lactulose 15 mL PO BID:PRN constipation not relieved by 
other bowel meds  
3.  Polyethylene Glycol 17 g PO BID  
4.  Senna 17.2 mg PO BID  
5.  Glargine 30 Units Bedtime
Humalog 6 Units Breakfast
Humalog 6 Units Lunch
Humalog 6 Units Dinner 
6.  GlipiZIDE 10 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain likely ___ constipation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital with cramping abdominal pain, 
straining with bowel movements and passing narrow caliber stool 
since your surgery. It appears you had these symptoms prior to 
the surgery, but that they have gotten worse since then. When 
you got to the hospital, we did blood work and a CT scan of your 
abdomen and pelvis to further investigate the etiology. Your 
blood work was reassuring and your CT scan did not show any 
evidence of infection or obstruction of your bowels, but did 
show significant stool burden (i.e. constipation). We also had 
the surgeons evaluate you given your recent surgery. On their 
exam, there was no concerns for infection or complications of 
your recent surgical site. 

We believe your symptoms are related to constipation. It is 
important you to drink plenty of fluids to stay well hydrated 
and to use bowel medications regularly - especially miralax, 
which can be taken ___ times a day. Please also take Colace and 
senna daily to improve your bowel movements as well. Please 
follow up with your primary care doctor, and if your symptoms 
persist in spite of regular use of these medications, please 
have them consider referring you to the GI doctors.

___ was a pleasure meeting you- we wish you all the best!
- Your ___ care team 
 
Followup Instructions:
___